US08067599B2
2-Chloro-5-nitro-N-(1H-pyrrolo[2,3-b]pyridin-5-yl)-benzamide
1.87 g 1H-Pyrrolo[2,3-b]pyridin-5-ylamine in 60 ml dry pyridine were treated dropwise at RT with a solution of 6.79 g 2-chloro-5-nitrobenzoyl chloride in 10 ml dichloromethane. Stirring was continued over night. The mixture was evaporated and the residue was treated with 25 ml methanol and 10 ml conc. ammonia for 2 hrs at RT. The solvents are again evaporated and the residue is dispersed in water. The crude product is isolated by filtration and washed thoroughly with water and diethylether.

reactant | 1H-Pyrrolo[2,3-b]pyridin-5-ylamine | 1.87 g | N1C=CC=2C1=NC=C(C2)N | C7H7N3
reactant | 2-chloro-5-nitrobenzoyl chloride | 6.79 g | ClC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Chloro-5-nitro-N-(1H-pyrrolo[2,3-b]pyridin-5-yl)-benzamide | ClC1=C(C(=O)NC=2C=C3C(=NC2)NC=C3)C=C(C=C1)[N+](=O)[O-] | C14H9ClN4O3
